### PR TITLE
Support for `map_mx`

### PR DESCRIPTION
**Pull request by CohenCyril**
##### Motivation for this change

Missing lemmas about `map_mx`.
Part of #207.

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md` (do not edit former entries)
- ~added corresponding documentation in the headers~

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

File: mathcomp/algebra/matrix.v [hunk 1]
```diff
@@ -1035,6 +1035,30 @@ End MapMatrix.
 
 Arguments map_mx {aT rT} f {m n} A.
 
+Section MultipleMapMatrix.
+Local Notation "M ^ phi" := (map_mx phi M).
+
+Lemma map_mx_id (R : ringType) m n (M : 'M[R]_(m,n)) : M ^ id = M.
```
Comment (pi8027) [inline mathcomp/algebra/matrix.v:1041]: `R` can be generalized to a `Type` here.

File: mathcomp/algebra/matrix.v [hunk 2]
```diff
@@ -1032,6 +1032,30 @@ End MapMatrix.
...
+
+Lemma map_mx_id (R : Type) m n (M : 'M[R]_(m,n)) : M ^ id = M.
+Proof. by apply/matrixP => i j; rewrite !mxE. Qed.
+
+Lemma map_mx_comp (R S T : Type) m n (M : 'M[R]_(m,n))
+      (f : R -> S) (g : S -> T) : M ^ (g \o f) = (M ^ f) ^ g.
+Proof. by apply/matrixP => i j; rewrite !mxE. Qed.
+
+Lemma eq_in_map_mx (R S : Type) m n (M : 'M[R]_(m,n)) (g f : R -> S) :
+  (forall i j, f (M i j) = g (M i j)) -> M ^ f = M ^ g.
```
Comment (pi8027) [inline mathcomp/algebra/matrix.v:1046]: Shouldn't this be `<->` rather than implication as in `eq_in_map`?

File: mathcomp/algebra/matrix.v [hunk 3]
```diff
@@ -1032,6 +1032,30 @@ End MapMatrix.
...
+Proof. by move=> eq_fg; apply/matrixP => i j; rewrite !mxE. Qed.
+
+Lemma eq_map_mx (R S : Type) m n (M : 'M[R]_(m,n)) (g f : R -> S) :
+  f =1 g -> M ^ f = M ^ g.
+Proof. by move=> eq_fg; apply: eq_in_map_mx. Qed.
+
+Lemma map_mx_id_in (R : Type) m n (M : 'M[R]_(m,n)) (f : R -> R) :
+  (forall i j, f (M i j) = M i j) -> M ^ f = M.
+Proof. by move=> /(@eq_in_map_mx _ _ _ _ _ id); rewrite map_mx_id. Qed.
```
Comment (pi8027) [inline mathcomp/algebra/matrix.v:1055]:
```suggestion
Proof. by rewrite -[RHS]map_mx_id; apply: eq_in_map_mx. Qed.
```

**Review by pi8027 — APPROVED** [review]
LGTM modulo CI.

**Review by ybertot — APPROVED** [review]
LGTM

**Comment by ybertot** [comment]
I don't understand what is the situation with CI, I did not see any successful checks.

**Comment by CohenCyril** [comment]
Strange... I can see it and it is passing though.  You can merge.

**Comment by ybertot** [comment]
Concerning CI, I was not looking at the right place.  Now, I see it.
